Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ibuprofen
 
Attending: ___.
 
Chief Complaint:
dyspnea, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with history of emphysema and radiation induced 
bronchietasis ___ radiation for small cell lung cancer (s/p 
etoposide/carboplatin in ___, CAD s/p RCA stent presenting 
with history of chronic cough presenting with increased dyspnea 
and cough for 3 days. Reports subjective fever, right sided rib 
pain, weight gain and ankle swelling. Denies nausea, vomiting. 
Has chronic headache and muscle aches, no recent change. No sick 
contacts as far as she is aware. 
 
In the ED, initial VS were 98.2 96 135/65 24 97%. Received 
MethylPREDNISolone Sodium Succ 125mg, Duoneb, Azithromycin 500mg 
and Benzonatate 100mg x2. On arrival to the floor, vitals were 
97.7, ___, 97, 96%/RA. Patient reports cough and dyspnea.
 

 
Past Medical History:
1.  Hypertension.
2.  Hyperlipidemia.
3.  Osteopenia.
4.  Prior history of small cell lung cancer, status post
radiation and chemotherapy.  She also underwent prophylactic
cranial radiation in ___.
5.  GERD.
6.  Dementia
7.  Coronary artery disease, status post stenting of the right
coronary artery in the setting of a ST-elevation myocardial
infarction.

 
Social History:
___
Family History:
 2 brothers died of lung cancer, 1 brother had head and neck 
cancer, sister with multiple myeloma.

 
Physical Exam:
Admission PE
VS - T 97.7, 236/63, 97, 20, 96%/RA
GEN - alert, oriented to hospital (but not which one), ___ 
(but not day), no acute distress  
HEENT - NCAT, MMM, EOMI, sclera anicteric, OC/OP clear  
NECK - supple, no JVD, no LAD  
PULM - diffusely rhoncherous, wet sounding cough with deep 
inspiration
CV - RRR, S1/S2, no m/r/g
ABD - soft, NT/ND, normoactive bowel sounds, no guarding or 
rebound 
EXT - WWP, no c/c/e, 2+ pulses palpable bilaterally
NEURO - CN II-XII intact, motor function grossly normal  
SKIN - no ulcers or lesions 

Discharge PE
VS - T 98.4, 131/89, 78, 16, 93%/RA
GEN - alert, no acute distress  
HEENT - NCAT, MMM, EOMI, sclera anicteric, OC/OP clear  
NECK - supple, no JVD, no LAD  
PULM - diffusely rhoncherous with mild wheezing
CV - RRR, S1/S2, no m/r/g
ABD - soft, NT/ND, normoactive bowel sounds
EXT - WWP, no c/c/e, 2+ pulses palpable bilaterally
NEURO - CN II-XII intact, motor function grossly normal  
SKIN - no ulcers or lesions  

 
Pertinent Results:
Discharge Labs
___ 06:20AM BLOOD WBC-9.5 RBC-3.43* Hgb-10.6* Hct-31.6* 
MCV-92 MCH-30.9 MCHC-33.5 RDW-12.6 Plt ___
___ 06:20AM BLOOD Glucose-87 UreaN-28* Creat-1.1 Na-134 
K-4.3 Cl-99 HCO3-23 AnGap-16
___ 06:20AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0

Admission labs:
___ 05:10AM BLOOD WBC-9.0 RBC-3.72* Hgb-11.6* Hct-34.3* 
MCV-92 MCH-31.3 MCHC-33.9 RDW-13.0 Plt ___
___ 05:10AM BLOOD Neuts-75.5* Lymphs-11.4* Monos-8.6 
Eos-4.0 Baso-0.5
___ 05:10AM BLOOD Glucose-106* UreaN-22* Creat-1.2* Na-133 
K-4.7 Cl-99 HCO3-21* AnGap-18
___ 07:20AM BLOOD Calcium-9.4 Phos-3.1 Mg-1.8
___ 05:10AM BLOOD proBNP-341
___ 05:14AM BLOOD Lactate-1.1

EKG ___:
Sinus tachycardia. Atrio-ventricular conduction delay. Left 
atrial
abnormality. Non-specific ST segment changes. Compared to the 
previous
tracing of ___ the ventricular rate is faster.
 IntervalsAxes
___
___

Imaging:
Chest X-ray ___:
Frontal and lateral views of the chest demonstrate normal lung 
volumes.  There
are prominent interstitial markings bilaterally.  The left 
hemidiaphragm is
obscured.  Bibasilar opacities are noted.  Post-radiation 
changes with
paramediastinal fibrosis is again seen.  The hilar and 
mediastinal silhouettes
are unchanged.  Heart is slightly enlarged.  Aortic arch 
calcifications are
noted.  There is no pneumothorax.
IMPRESSION:
Bibasilar opacities, atelectasis or infection in appropriate 
clinical setting.
Prominent interstitial markings may reflect mild interstitial 
pulmonary edema.

 
Brief Hospital Course:
___ female with history of emphysema and radiation-induced 
bronchiectasis presenting with acute worsening of chronic 
dyspnea and cough. 

Active issues:
#) Dyspnea and cough: Patient with productive cough, but no 
fevers and a normal WBC which was thought most likely due to 
COPD exacerbation as she has history of emphysema and radiation 
induced bronchiectasis. CHF exacerbation also considered, 
although patient did not appear volume overloaded on exam and 
BNP was normal. She was treated with steroids, nebulizers and 
azithromycin. Her cough was also treated symptomatically.

Chronic issues:
#) History of small cell lung cancer: treated with carboplatin 
and etoposide with radiation for a total of 6 cycles ending in 
___.  She also underwent prophylactic cranial irradiation in 
___. Chest CT ___ showed no signs of recurrence. 

#) HTN: stable on home metoprolol

#) CAD: Continued on ASA, atorvastatin, and metoprolol 

#) GERD: Stable on pantoprazole and sucralfate

#) hypothyroidism: stable on home levothyroxine 

Transitional issues:
- She desaturated to 88% with exertion on room air and remained 
moderately short of breath on exertion which improved with 
oxygen. Her baseline resting O2 sats remained 93-98% while 
hospitalized. She was discharged home with oxygen to use for 
dypsnea on exertion. She has 24 hour supervision and home 
nursing care. 
- Recommended for home ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO DAILY 
2. Benzonatate 100 mg PO TID:PRN cough 
3. Citalopram 10 mg PO DAILY 
4. Donepezil 5 mg PO QAM 
5. Vitamin D 50,000 UNIT PO QOW (___) 
6. Albuterol-Ipratropium 2 PUFF IH Q6H:PRN SOB 
7. Levothyroxine Sodium 112 mcg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Oxybutynin 5 mg PO DAILY 
10. Pantoprazole 40 mg PO Q24H 
11. Sucralfate 1 gm PO QID 
after meals and at bedtime 
12. Acetaminophen 325 mg PO Q6H:PRN pain 
13. Aspirin 81 mg PO DAILY 
14. Loperamide 2 mg PO QID:PRN diarrhea 
15. Miconazole Powder 2% 1 Appl TP BID:PRN rash on perineum 
16. Guaifenesin 3 mL PO Q6H:PRN cough 

 
Discharge Medications:
1. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0
2. Azithromycin 250 mg PO Q24H Duration: 2 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0
3. Acetaminophen 325 mg PO Q6H:PRN pain 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 40 mg PO DAILY 
6. Benzonatate 100 mg PO TID:PRN cough 
7. Citalopram 10 mg PO DAILY 
8. Guaifenesin 3 mL PO Q6H:PRN cough 
9. Levothyroxine Sodium 112 mcg PO DAILY 
10. Miconazole Powder 2% 1 Appl TP BID:PRN rash on perineum 
11. Pantoprazole 40 mg PO Q24H 
12. Sucralfate 1 gm PO QID 
after meals and at bedtime 
13. Donepezil 5 mg PO QAM 
14. Loperamide 2 mg PO QID:PRN diarrhea 
15. Metoprolol Succinate XL 25 mg PO DAILY 
16. Oxybutynin 5 mg PO DAILY 
17. Vitamin D 50,000 UNIT PO QOW (___) 
18. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 nebulizer every 
six (6) hours Disp #*30 Not Specified Refills:*0
19. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 1 nebulizer every 
six (6) hours Disp #*30 Not Specified Refills:*0
20. nebulizers *NF*    Miscellaneous 1 
RX *nebulizers    every six (6) hours Disp #*1 Kit Refills:*0
21. Home oxygen
Home oxygen for COPD and desaturations to 88% on room air with 
exertion. ICD 9 Code 492. Use as needed for shortness of breath 
with exertion. Flow rate 2L by nasal cannula. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chronic Obstructive Pulmonary Disorder Exacerbation
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with cough and shortness of 
breath. You were treated for a COPD exacerbation with steroids, 
nebulizer treatments and azithromycin.

It was a pleasure taking care of you during your hospitalization 
and we wish you the best going forward.
 
Followup Instructions:
___